US06689790B2
8-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic Acid Methyl Ester
The title compound, MS m/e (%): 259.1 (M+, 100), was prepared in accordance with the general method of example 1 from 5,6-diamino-nicotinic acid methyl ester, O-mesitylene-sulfonylhydroxylamine, and furan-2-carboxaldehyde. The purification was performed by flash column chromatography on silica eluting with a mixture of ethyl acetate and n-hexane.

reactant | 5,6-diamino-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)N)N)=O | C7H9N3O2
reactant | O-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | furan-2-carboxaldehyde | O1C(=CC=C1)C=O | C5H4O2
product | 8-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic Acid Methyl Ester | COC(=O)C=1C=C(C=2N(C1)N=C(N2)C=2OC=CC2)N | C12H10N4O3
